US08445509B2
Production of 1-(4-fluoro-2-methylphenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid
1-(4-fluoro-2-methylphenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile (590 mg, 2.9 mmol) was suspended in water (3.0 mL), conc. sulfuric acid (3.0 mL) was slowly added dropwise. The mixture was stirred overnight at 100° C., and allowed to cool to room temperature. The reaction system was basified with aqueous sodium hydroxide solution (8N) and washed with ethyl acetate. The aqueous layer was acidified with hydrochloric acid (1N), and extracted twice with ethyl acetate. The mixed organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. Hexane-ethyl acetate was added to the residue, and the resulting precipitate was collected by filtration to give the title compound (480 mg, 75%) as a white solid.

reactant | 1-(4-fluoro-2-methylphenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile | 2.9 mmol, 590 mg | FC1=CC(=C(C=C1)N1C(C(=CC=C1C)C#N)=O)C | C14H11FN2O
reactant | sulfuric acid | 3.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 8N | [OH-].[Na+]
solvent | water | 3.0 mL | O | H2O
product | 1-(4-fluoro-2-methylphenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 480 mg, 75% | FC1=CC(=C(C=C1)N1C(C(=CC=C1C)C(=O)O)=O)C | C14H12FNO3
